US07456187B2
(2-Methanesulfonyl-5-phenyl-furo[2,3-d]pyrimidin-4-yl)-pyridin-2-ylmethylamine
A mixture of 2,4-bis-methylsulfonyl-5-phenyl-furo[2,3-d]pyrimidine (54 mg, 0.153 mmol), triethylamine (17 mg, 0.168 mmol) and 2-(aminomethyl)pyridine (18 mg, 0.168 mmol) in propan-2-ol (5 ml) was warmed to obtain a solution and stirred at ambient temperature for 2.5 hr. Water (50 ml) was then added and the mixture was extracted with dichloromethane (3×30 ml). The combined extracts were dried (MgSO4) and the solvent removed in vacuo to give the crude (2-methanesulfonyl-5-phenyl-furo[2,3d]pyrimidin-4-yl)-pyridin-2-ylmethylamine which was purified by flash chromatography (silica) eluting with 40′-60° C. petroleum ether followed by ethyl acetate to give a white solid (17 mg), m.pt. 171-173° C.

reactant | 2,4-bis-methylsulfonyl-5-phenyl-furo[2,3-d]pyrimidine | 0.153 mmol, 54 mg | CS(=O)(=O)C=1N=C(C2=C(N1)OC=C2C2=CC=CC=C2)S(=O)(=O)C | C14H12N2O5S2
reactant | triethylamine | 0.168 mmol, 17 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(aminomethyl)pyridine | 0.168 mmol, 18 mg | NCC1=NC=CC=C1 | C6H8N2
reactant | Water | 50 ml | O | H2O
solvent | propan-2-ol | 5 ml | CC(C)O | C3H8O
product | (2-Methanesulfonyl-5-phenyl-furo[2,3-d]pyrimidin-4-yl)-pyridin-2-ylmethylamine | 17 mg | CS(=O)(=O)C=1N=C(C2=C(N1)OC=C2C2=CC=CC=C2)NCC2=NC=CC=C2 | C19H16N4O3S
